US06369146B1
Diisoamyl-DL-malate was prepared using a procedure similar to that in Example 4. To the reaction flask, DL-malic acid (87.54 g), 3-methyl-1-butanol (285 mL) and Amberlyst® 15 ion exchange resin (11.9) were added. The mixture was placed under nitrogen and heated to reflux. At 109° C., two phases started to collect in the Dean-Stark trap. The reaction was maintained at 110° C. for 8 hr, during this time water was continuously removed. The product was dissolved in diethyl ether and separated from the catalyst via filtration over a bed of silica. The organic layer was washed with saturated sodium bicarbonate a number of times, washed once with water, and dried over magnesium sulfate. Diethyl ether was removed via rotary evaporation. Diisoamyl-DL-malate was obtained as a low viscosity, clear colorless liquid with a slight odor (130 g, 72% yield) after pumping on the sample in vacuo to remove residual 3-methyl-1-butanol.

reactant | DL-malic acid | 87.54 g | C(C(O)CC(=O)O)(=O)O | C4H6O5
reactant | 3-methyl-1-butanol | 285 mL | CC(CCO)C | C5H12O
product | Diisoamyl-DL-malate | C(CC(C)C)OC(C(O)CC(=O)OCCC(C)C)=O | C14H26O5
